US08629144B2
Step 6: 6-{difluoro[6-(1-methyl-1H-pyrazol-4-yl)[1,2,4]triazolo[4,3-b]pyridazin-3-yl]methyl}quinoline
To a reactor under inert atmosphere was added 73.84 g (0.38 mol) 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)pyridazine, 90 g (0.38 mol) 2,2-difluoro-2-quinolin-6-ylacetohydrazide and 1200 mL 1-methoxy-2-propanol. Then 29.85 mL (0.455 mol) methane sulphonic acid was added and the reaction mixture was heated at 80° C. for 8 hours. After cooling to ambient temperature the mesylate salt of the title compound was filtered off from the reaction mixture. This salt was dissolved in a mixture of 400 mL ethanol and 300 mL water, after alkalisation at 80° C. with 50 mL ammonia (0.65 mol) in 200 mL water the free base of the title compound precipitates and was filtered off. This precipitate was dried at 50° C. and was subsequently re-crystallized from 2-propanol (1.8 L/mol) to yield the title compound in 75% yield.

reactant | 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)pyridazine | 0.38 mol, 73.84 g | ClC=1N=NC(=CC1)C=1C=NN(C1)C | C8H7ClN4
reactant | 2,2-difluoro-2-quinolin-6-ylacetohydrazide | 0.38 mol, 90 g | FC(C(=O)NN)(C=1C=C2C=CC=NC2=CC1)F | C11H9F2N3O
reactant | methane sulphonic acid | 0.455 mol, 29.85 mL | CS(=O)(=O)O | CH4O3S
solvent | 1-methoxy-2-propanol | 1200 mL | COCC(C)O | C4H10O2
product | 6-{difluoro[6-(1-methyl-1H-pyrazol-4-yl)[1,2,4]triazolo[4,3-b]pyridazin-3-yl]methyl}quinoline | FC(C=1C=C2C=CC=NC2=CC1)(C1=NN=C2N1N=C(C=C2)C=2C=NN(C2)C)F | C19H13F2N7
